US06080743
N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-yl methyl)-N-methyl-amine hydrobromide;
N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-(1,1-dioxo-2,3,4,5-tetrahydro-thien-3-yl)-amine hydrobromide, FAB-MS: M+ =354; TLC: methanol/acetic acid (9:1) Rf =0.69;

reactant | N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-ylmethyl)-N-(1,1-dioxo-2,3,4,5-tetrahydro-thien-3-yl)-amine hydrobromide | Br.[N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)CNC1CS(CC1)(=O)=O
solvent | methanol acetic acid | CO.C(C)(=O)O
product | N-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-5-yl methyl)-N-methyl-amine hydrobromide | Br.[N+](=O)([O-])C1=CC(=C2NC(C(NC2=C1)=O)=O)CNC | InChI=1S/C10H10N4O4.BrH/c1-11-4-5-2-6(14(17)18)3-7-8(5)13-10(16)9(15)12-7;/h2-3,11H,4H2,1H3,(H,12,15)(H,13,16);1H
